US09216999B2
3-Amino-1,1,1-trifluoro-2-(pyridin-3-yl)propan-2-ol
Isopropylmagnesium chloride-lithium chloride complex-tetrahydrofuran solution (1.3 M, 20.7 mL, 27.0 mmol) was added dropwise to 5-bromo-2-chloropyridine (5.20 g, 27.0 mmol) in tetrahydrofuran (40 mL) under cooling with ice, and the reaction mixture was stirred for 30 minutes and then mixed with ethyl 2,2,2-trifluoroacetate (11.5 g, 81.0 mmol) under cooling with ice and stirred at room temperature for 10 minutes. After addition of 1M hydrochloric acid, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a yellow oil. The yellow oil was dissolved in nitromethane (30 mL) and stirred with potassium carbonate (3.73 g, 27.0 mmol) at room temperature for 30 minutes. The reaction mixture was added to 1M hydrochloric acid and extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 (v/v)) to give a yellow oil. The yellow oil was dissolved in tetrahydrofuran (20 mL), mixed with 10% palladium-carbon (600 mg) and triethylamine (2.60 mL, 18.7 mmol) and then stirred at room temperature for one day under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate→ethyl acetate/methanol/triethylamine=9/1/1 (v/v/v)) to give the title compound as a colorless solid (913 mg, yield 31% (4 steps)).

reactant | 5-bromo-2-chloropyridine | 27.0 mmol, 5.20 g | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | ethyl 2,2,2-trifluoroacetate | 81.0 mmol, 11.5 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | potassium carbonate | 27.0 mmol, 3.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | triethylamine | 18.7 mmol, 2.60 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | nitromethane | 30 mL | [N+](=O)([O-])C | CH3NO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 600 mg | [C].[Pd]
solvent | tetrahydrofuran | 27.0 mmol, 1.3 M, 20.7 mL | O1CCCC1 | C4H8O
product | 3-Amino-1,1,1-trifluoro-2-(pyridin-3-yl)propan-2-ol | 913 mg, yield 31% | NCC(C(F)(F)F)(O)C=1C=NC=CC1 | C8H9F3N2O
